### PR TITLE
Congruent number problem

### LINKED ISSUE #316: Congruent number problem
### What is the conjecture

Characterize integers $n \ge 1$ such that there exist a right triangle with rational sides and area $n$. This is one of #104 

### Prerequisites needed

Depends on how much we want to formalize known about it. For example, Tunnell's theorem (and its converse that holds under BSD) can be easily formalized and I already have it. For the elliptic curve side, I did some search and mathlib doesn't seem to have rank yet; if it has, then one nice thing to have (with `sorry`) is the fact that $n$ is a congruent number if the elliptic curve $y^2 = x^3 - n^2 x$ has rank > 1.
Another thing is the fact that 1 is not a congruent number, which can be proved using infinite decent (and used to prove FLT(4) by Fermat), but I haven't tried it.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-XX

### Choose either option
- [x] I plan on working on this conjecture
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #316.
Define congruent number, give (non)examples, and statement of Tunnell's theorem.

### CODE REVIEW

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 1]
```diff
@@ -0,0 +1,109 @@
...
+  constructor <;> norm_num
+
+/- Zagier's example -/
+@[category test]
+example : congruentNumber 157 := by
+  use 411340519227716149383203 / 21666555693714761309610,
+    6803298487826435051217540 / 411340519227716149383203,
+    224403517704336969924557513090674863160948472041 /
+      8912332268928859588025535178967163570016480830
+  constructor <;> norm_num
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
  norm_num

@[category test]
example : congruentNumber 6 := by
  use 3, 4, 5
  norm_num

@[category test]
example : congruentNumber 7 := by
  use 35 / 12, 24 / 5, 337 / 60
  norm_num

/- Zagier's example -/
@[category test]
example : congruentNumber 157 := by
  use 411340519227716149383203 / 21666555693714761309610,
    6803298487826435051217540 / 411340519227716149383203,
    224403517704336969924557513090674863160948472041 /
      8912332268928859588025535178967163570016480830
  norm_num
```

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 2]
```diff
@@ -0,0 +1,109 @@
...
+def B (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 2 * x ^ 2 + y ^ 2 + 8 * z ^ 2}
+def C (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 64 * z ^ 2}
+def D (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 16 * z ^ 2}
+
+/- Tunnell's theorem. -/
+@[category research solved, AMS 11]
+theorem Tunnell_odd (n : ℕ) (hsqf : Squarefree n) (hodd : Odd n) :
+    congruentNumber n → 2 * (A n).ncard = (B n).ncard := by
+  sorry
+@[category research solved, AMS 11]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
  sorry

@[category research solved, AMS 11]
```

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+example : congruentNumber 157 := by
+  use 411340519227716149383203 / 21666555693714761309610,
+    6803298487826435051217540 / 411340519227716149383203,
+    224403517704336969924557513090674863160948472041 /
+      8912332268928859588025535178967163570016480830
+  norm_num
+
+
+/- Characterize congruent numbers. -/
+theorem congruent_number_problem (n : ℕ+) : congruentNumber n ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
/- Characterize congruent numbers. -/
@[category research solved, AMS 11]
theorem congruent_number_problem (n : ℕ+) : congruentNumber n ↔ answer(sorry) := by
```

I'm not entirely convinced that this request for characterization is a good idea: is there reason to expect there is a simple characterization?

Comment (seewoo5) [reply FormalConjectures/Wikipedia/CongruentNumber.lean]: Congruent number problem is "to characterize congruent numbers", which is a bit vague in my opinion. I think Tunnell's theorem already gives a characterization (and IMO a "good" characterization, since the conditions can be checked in polynomial time), but congruent number problem still remains as a conjecture since converse of Tunnell's theorem uses BSD. I also thought including `congruent_number_problem` in this form is a bit weird - would it be better to simply remove it?

Comment (mo271) [reply FormalConjectures/Wikipedia/CongruentNumber.lean]: I'm on the fence about it, and would be ok merging it with or without this theorem. Perhaps @Paul-Lez or @callesonne or sombody else has opinions?

Comment (callesonne) [reply FormalConjectures/Wikipedia/CongruentNumber.lean]: I think that it's better to remove it, I find it too vague as well

**Review by callesonne — APPROVED** [review]
LGTM :)

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+- If $n$ is odd, then $2 |A_n| = |B_n|$.
+- If $n$ is even, then $2 |C_n| = |D_n|$.
+
+Converse is true under the BSD conjecture.
+-/
+
+def A (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 2 * x ^ 2 + y ^ 2 + 32 * z ^ 2}
+def B (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 2 * x ^ 2 + y ^ 2 + 8 * z ^ 2}
+def C (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 64 * z ^ 2}
+def D (n : ℕ) : Set (ℤ × ℤ × ℤ) := { (x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 16 * z ^ 2}
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
def A (n : ℕ) : Set (ℤ × ℤ × ℤ) := {(x, y, z) | n = 2 * x ^ 2 + y ^ 2 + 32 * z ^ 2}
def B (n : ℕ) : Set (ℤ × ℤ × ℤ) := {(x, y, z) | n = 2 * x ^ 2 + y ^ 2 + 8 * z ^ 2}
def C (n : ℕ) : Set (ℤ × ℤ × ℤ) := {(x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 64 * z ^ 2}
def D (n : ℕ) : Set (ℤ × ℤ × ℤ) := {(x, y, z) | n = 8 * x ^ 2 + 2 * y ^ 2 + 16 * z ^ 2}
```
or add a space at the end?

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+
+/- Tunnell's theorem. -/
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
/-! Tunnell's theorem. -/

```

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+theorem Tunnell_odd (n : ℕ) (hsqf : Squarefree n) (hodd : Odd n) :
+    congruentNumber n → 2 * (A n).ncard = (B n).ncard := by
+  sorry
+
+@[category research solved, AMS 11]
+theorem Tunnell_even (n : ℕ) (hsqf : Squarefree n) (heven : Even n) :
+    congruentNumber n → 2 * (C n).ncard = (D n).ncard := by
+  sorry
+
+/-- Converse of Tunnell's theorem. -/
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
/-! Converse of Tunnell's theorem. -/

```

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 7]
```diff
@@ -0,0 +1,110 @@
...
+    224403517704336969924557513090674863160948472041 /
+      8912332268928859588025535178967163570016480830
+  norm_num
+
+
+/- Characterize congruent numbers. -/
+theorem congruent_number_problem (n : ℕ+) : congruentNumber n ↔ answer(sorry) := by
+  sorry
+
+/--
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion
/-!
```
This is not just the docstring for `A` ...

**Review by alreadydone — APPROVED** [review]
Thanks!

File: FormalConjectures/Wikipedia/CongruentNumber.lean (hunk 7 above)
Comment (seewoo5) [reply FormalConjectures/Wikipedia/CongruentNumber.lean]: I think I didn't know a proper way to write docsting 😅 Thanks!

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 8]
```diff
@@ -0,0 +1,108 @@
...
+A natural number $n$ is called a congruent number if there exists a right triangle with rational
+sides $a$, $b$, and hypotenuse $c$ such that the area of the triangle is $\frac{1}{2}ab = n$.
+
+*References:*
+- [Wikipedia (Congruent number)](https://en.wikipedia.org/wiki/Congruent_number)
+- [Wikipedia (Tunnell's theorem)](https://en.wikipedia.org/wiki/Tunnell%27s_theorem)
+- [Keith Conrad's note](https://kconrad.math.uconn.edu/blurbs/ugradnumthy/congnumber.pdf)
+-/
+
+
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion

```

File: FormalConjectures/Wikipedia/CongruentNumber.lean [hunk 9]
```diff
@@ -0,0 +1,108 @@
...
+/- Zagier's example -/
+@[category test]
+example : congruentNumber 157 := by
+  use 411340519227716149383203 / 21666555693714761309610,
+    6803298487826435051217540 / 411340519227716149383203,
+    224403517704336969924557513090674863160948472041 /
+      8912332268928859588025535178967163570016480830
+  norm_num
+
+
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/CongruentNumber.lean]:
```suggestion

```
